US03943108
Preparation of the 3-perylencarboxaldehyde
About 22 grams N-methylformanilide is initially dissolved in 40 milliliters o-dichlorobenzene, the vessel containing the above solution partially immersed in a water bath (bath temperature less than 25° C) and 22 grams phosphorous oxychloride introduced into the flask by dropewise addition. About 20 grams of perylene is stirred into the above solution and the resulting mixture heated on a steam bath for twelve hours (temperature of contents of vessel 90°-95° C). The contents of the flask are thereafter poured into a second vessel containing 100 grams sodium acetate dissolved in 250 milliliters water. The organic liquid phase of the mixture is separated from the aqueous phase by steam distillation. Crude aldehyde is thereafter precipitated from aqueous solution and the solids recystalized from acetic acid and from benzene. The solids thus obtained are further extracted in a soxhlet extractor with 30-60 pet ether. The material remaining in the extraction thimble is 3-perylenecarboxaldehyde, mp 230° C; yield 9.5 grams.

reactant | N-methylformanilide | 22 grams | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorous oxychloride | 22 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | perylene | 20 grams | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | C20H12
reactant | sodium acetate | 100 grams | C(C)(=O)[O-].[Na+]
solvent | o-dichlorobenzene | 40 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 250 milliliters | O | H2O
product | 3-perylencarboxaldehyde | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C=O | C21H12O
